US05866594
Synthesis of methyl 3-(benzothiazol-2-yl)-4,7-dimethylindole-2-carboxylate (compound 73)
In 10 ml of ethyl acetate were dissolved 0.50 g (2.16 mmol) of methyl 3-formyl-4,7-dimethylindole-2-carboxylate and 0.27 g (2.16 mmol) of o-aminothiophenol. The reaction mixture was stirred at room temperature overnight. After addition of 0.30 g of o-aminothiophenol, the reaction mixture was stirred for 1 day and then poured into water. The reaction mixture was extracted with diethyl ether, washed with water and concentrated. The crude crystals were purified by silica gel column chromatography (toluene) and recrystallized from methanol-water to provide 0.15 g of beige powder. Yield: 20%

reactant | methyl 3-formyl-4,7-dimethylindole-2-carboxylate | 2.16 mmol, 0.50 g | C(=O)C1=C(NC2=C(C=CC(=C12)C)C)C(=O)OC | C13H13NO3
reactant | o-aminothiophenol | 2.16 mmol, 0.27 g | NC1=C(C=CC=C1)S | C6H7NS
reactant | o-aminothiophenol | 0.30 g | NC1=C(C=CC=C1)S | C6H7NS
reactant | water | O | H2O
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | methyl 3-(benzothiazol-2-yl)-4,7-dimethylindole-2-carboxylate | 0.15 g, Yield: 20% | S1C(=NC2=C1C=CC=C2)C2=C(NC1=C(C=CC(=C21)C)C)C(=O)OC | C19H16N2O2S
